US06586617B1
4-Methoxymethoxy-2-nitroaniline (7.69 g (38.8 mmol)) was dissolved in 19.0 ml of pyridine. To this, p-toluenesulfonyl chloride (8.14 g (42.7 mmol)) was added with stirring at room temperature and the mixture was stirred at room temperature for 18 hours. Then, water (200.0 ml) was added to the reaction mixture, and the resulting mixture was extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was then subjected to silica gel column chromatography with chloroform-ethanol (100:1) as eluent, to give 9.46 g (63%) of 4′-methoxymethoxy-2′-nitro-p-toluenesulfonanilide as a yellow oil.

reactant | 4-Methoxymethoxy-2-nitroaniline | 38.8 mmol, 7.69 g | COCOC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O4
reactant | p-toluenesulfonyl chloride | 42.7 mmol, 8.14 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 200.0 ml | O | H2O
solvent | pyridine | 19.0 ml | N1=CC=CC=C1 | C5H5N
product | 4′-methoxymethoxy-2′-nitro-p-toluenesulfonanilide | 9.46 g, 63% | COCOC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-] | C15H16N2O6S
